US08420632B2
2.6 ml (2.6 mmol) of an aqueous solution of lithium hydroxide having a concentration of 1M are added to a solution of 900 mg (1.8 mmol) of methyl (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate in 20 ml of tetrahydrofuran and 0.5 ml of water. The reaction medium is stirred at ambient temperature for 18 h and then the THF is evaporated off under vacuum. 2.8 ml of an aqueous solution of acetic acid having of concentration of 1M and then 30 ml of water are added and the product precipitates. The suspension is stirred for 30 min at 100° C. and then brought back to ambient temperature, filtered and dried under vacuum. 750 mg (86%) of (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid are obtained in the form of a white solid.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | methyl (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate | 1.8 mmol, 900 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C22H29N3O7S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid | 750 mg, 86% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)O)N1CCN(CC1)S(=O)(=O)C | C21H27N3O7S2
